US20010053779A1
A mixture comprising 4-(2-ethoxycarbonylphenoxy)butyric acid (155 mg, 0.61 mmol), PyBOP (360 mg, 0.69 mmol), hydroxybenztriazole hydrate (87 mg, 0.64 mmol), N-methylmorpholine (0.16 mL, 0.92 mmol) and dimethylformamide (2.5 mL) was stirred at room temperature for 10 minutes and then N-{2-[1-(4,5,6,7-tetrahydroimidazo[4,5-c]pyridin-2-yl)ethyl]-3H-benzimidazol-5-yl }guanidine (203 mg, 0.63 mmol) was added. The mixture was stirred for 3 hours at room temperature and concentrated in vacuo. The residue was dissolved in 5% aqueous acetonitrile and the product purified by preparative reverse phase HPLC. The combined pure fractions were then lyophillized to provide ethyl 2-(4-{2-[1-(5-guanidino-1H-benzoimidazol-2-yl)ethyl]-1,4,6,7-tetrahydroimidazo[4,5-c]pyridin-5-yl}-4-oxobutyl)benzoate; LRMS (BioIon): calculated for C29H34N8O4: 558.6; Found: 559.3.

reactant | 4-(2-ethoxycarbonylphenoxy)butyric acid | 0.61 mmol, 155 mg | C(C)OC(=O)C1=C(OCCCC(=O)O)C=CC=C1 | C13H16O5
reactant | PyBOP | 0.69 mmol, 360 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | hydroxybenztriazole hydrate | 0.64 mmol, 87 mg | O.OC1=CC=CC=2NN=NC21
reactant | N-methylmorpholine | 0.92 mmol, 0.16 mL | CN1CCOCC1 | C5H11NO
reactant | N-{2-[1-(4,5,6,7-tetrahydroimidazo[4,5-c]pyridin-2-yl)ethyl]-3H-benzimidazol-5-yl }guanidine | 0.63 mmol, 203 mg | N1C(=NC=2CNCCC21)C(C)C=2NC1=C(N2)C=CC(=C1)NC(=N)N | C16H20N8
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | ethyl 2-(4-{2-[1-(5-guanidino-1H-benzoimidazol-2-yl)ethyl]-1,4,6,7-tetrahydroimidazo[4,5-c]pyridin-5-yl}-4-oxobutyl)benzoate | N(C(=N)N)C1=CC2=C(NC(=N2)C(C)C=2NC3=C(CN(CC3)C(CCCC3=C(C(=O)OCC)C=CC=C3)=O)N2)C=C1 | C29H34N8O3
